US07842713B2
Preparation of Intermediate 285c: 6-(Ethoxycarbonyl)-4-(4-(methylsulfonyl)-phenoxy)-benzofuran-2-carboxylic acid
To 10 mL of acetonitrile was added periodic acid (232 mg, 1.02 mmol), and the solution was stirred vigorously at room temperature for 15 min. Ethyl 2-formyl-4-(4-(methylsulfonyl)phenoxy)-benzofuran-6-carboxylate (360 mg, 0.927 mmol) was then added at 0° C. followed by the addition of pyridium fluorochromate (3.69 mg, 0.0185 mmol) in CH3CN (1 mL). The reaction was stirred at 0° C. for 1 hour. The reaction was diluted with ethyl acetate and washed with brine. The organic layer was dried and concentrated to give the title compound (355 mg, 95%) as an orange solid. The crude product was used in the next step without further purification. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.40 (t, J=7.16 Hz, 3 H) 3.09 (s, 3 H) 4.41 (q, J=7.16 Hz, 2 H) 7.12-7.22 (m, 2 H) 7.55 (d, J=1.13 Hz, 1 H) 7.63 (d, J=1.13 Hz, 1 H) 7.92-8.02 (m, 2 H) 8.17 (s, 1 H).

reactant | periodic acid | 1.02 mmol, 232 mg | I(=O)(=O)(=O)O | HIO4
reactant | Ethyl 2-formyl-4-(4-(methylsulfonyl)phenoxy)-benzofuran-6-carboxylate | 0.927 mmol, 360 mg | C(=O)C=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)S(=O)(=O)C | C19H16O7S
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | pyridium fluorochromate | 0.0185 mmol, 3.69 mg | C=1C=CC(=CC1)N=NC=2C=CC(=NC2N)N.Cl.[Cr](=O)(=O)([O-])F
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-(Ethoxycarbonyl)-4-(4-(methylsulfonyl)-phenoxy)-benzofuran-2-carboxylic acid | 355 mg, 95% | C(C)OC(=O)C1=CC2=C(C=C(O2)C(=O)O)C(=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C19H16O8S
